US07435744B2
161a) 2-(4-Benzyl-piperidin-1-yl)-propionic acid ethyl ester
A mixture of 0.5 g (2.0 mmol) of 2-(4-benzyl-piperidin-1-yl)-propionic acid hydrochloride, 0.3 ml (2.1 mmol) of triethylamine, 0.36 g (2.0 mmol) of 6-amino-3H-benzoxazol-2-one, 0.8 g (2.1 mmol) of HBTU and 10 ml of dimethylformamide is stirred at room temperature for 24 hours. The reaction mixture is concentrated and the residue is purified by column chromatography using Kieselgel 60 (Merck) as adsorbent and toluene:methanol=4:1 as eluent. The product is crystallized with diethylether to yield 0.095 g (11.6%) of the title compound. Melting Point: 116-118° C. (diethylether).

reactant | 2-(4-benzyl-piperidin-1-yl)-propionic acid hydrochloride | 2.0 mmol, 0.5 g | Cl.C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)O)C
reactant | triethylamine | 2.1 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | 6-amino-3H-benzoxazol-2-one | 2.0 mmol, 0.36 g | NC1=CC2=C(NC(O2)=O)C=C1 | C7H6N2O2
reactant | HBTU | 2.1 mmol, 0.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(4-Benzyl-piperidin-1-yl)-propionic acid ethyl ester | 0.095 g, 11.6% | C(C)OC(C(C)N1CCC(CC1)CC1=CC=CC=C1)=O | C17H25NO2
